2149-09-25 05:57:00 Physician Resident Progress Note
Chief Complaint: 62yom w/  ETOH cirrhosis, recent prolonged
   hospitalization [**Date range (1) 8028**] for right axillary hematoma requiring massive
   blood product resuscitation, readmission [**Date range (1) 8299**] for continued right
   groin bleed which achieved hemostasis with DDAVP and aminocaproic acid,
   presenting one day after discharge with altered mental status.  His
   sister reports picking him up from the hospital the evening of [**9-22**] and
   reports he haved normal mental status.  The following morning he
   appeared to be confused and was not eating, and had not used the
   bathroom.  His symptoms progressed and by the evening he was awake but
   not verbal.  His sister therefore brought him to the [**Name (NI) **].
   24 Hour Events:
   -bladder pressure to 24
   -per sister had not taken any meds for about 24 hrs prior to admission
   -started ceftriaxone 1g q 24 as ppx per hepatology
   -lactulose q 2 hr titrate to BM, patient passing flatus but no stool
   -patient continues to have episodes of emesis after receiving lactulose
   through NGT
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-25**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 89 (57 - 120) bpm
   BP: 140/76(91) {115/62(65) - 158/83(102)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  2,676 mL
                                                                    143 mL
   PO:
   TF:
   IVF:
                                                                  2,556 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    365 mL
   Urine:
                                                                  1,035 mL
                                                                    245 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                  1,641 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   8.7 g/dL
   114 mg/dL
   1.1 mg/dL
   15 mEq/L
   3.0 mEq/L
   27 mg/dL
   114 mEq/L
   140 mEq/L
   25.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2149-9-24**]  10:19 AM
                             [**2149-9-24**]  03:43 PM
                             [**2149-9-24**]  08:23 PM
                             [**2149-9-25**]  02:51 AM
   WBC
   5.5
   6.9
   Hct
   26.5
   25.8
   25.8
   Plt
   110
   122
   Cr
   1.7
   1.5
   1.1
   Glucose
   101
   114
   114
   Other labs: PT / PTT / INR:26.1/95.4/2.5, ALT / AST:12/41, Alk Phos / T
   Bili:56/10.4, Lactic Acid:2.7 mmol/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Imaging:
   - CT Head: expanded slightly lobulated appearance of medulla and
   ponto-medullary and cervico-medullary junctions on axial images,
   unclear if artifactual or real, recommend repeating study when patient
   is more cooperative
   - RUQ-US: ascites, gall bladder sludge, patent main portal vein
   Micro:
   - Peritoneal fluid
 PMN, no organisms
   - BCx / UCx / MSSA
 pending
   Assessment and Plan
   Assessment and Plan:  63 yom with pmh significant for alcoholic
   cirrhosis, complicated by ascites, coagulopathy, hepatic
   encephalopathy, presenting with altered mental status.
   .
   # Altered Mental Status: clinical picture is most likely consistent
   with hepatic encephalopathy.  There is no clear precipitant; however,
   sister does report medication non-compliance for 24 hours prior to
   presentation.  Patient continues to have altered mental status without
   improvement in the setting of Rifaximin and Lactulose.  Ammonia
   continues to trend down as does lactate. Patient still without a bowel
   movement despite Lactulose q 2 hours and episodes of emesis are
   suggestive of some gastric residual.
   - continue lactulose and rifaximin via NGT
   - consider additional abdominal imaging as some concern whether patient
   is obstructed
   - consider remeasuring bladder pressure as increased intrabdominal
   pressures may be preventing bowel transi
   - consider IR guided therapeutic paracentesis in intra-abdominal
   pressures continue to remain elevated
   - will repeat head CT when stable for concern of central CNS process
   .
   # ARF: Cr 1.9 at admission and patient appears to be intravascularly
   depleted with lactate of 4.3.  Cr and lactate began to clear with fluid
   challenges suggesting pre-renal etiology and patient has maintained
   good urine output throughout admission thus far.
   - continue fluid boluses to maintain UOP > 30 cc/hr
   .
   # Metabolic acidosis: bicarbonate remains at 15 with new gap of 14.
   Lactate continues to trend down with fluid resucitation
   - continue to monitor with peripheral VBG and lactate
   .
   # Pancytopenia.  patient remains at his baseline.
   .
   # Guaiac positive stools. these were present during last admission and
   attributed to hemorrhoids.  At admission, ED reported BRBPR.  Hct has
   remained stable and NGT to suction revealed no gross blood.
   - will continue to monitor with serial hematocrits
   .
   # ESLD: LFTs at approximate baseline. Patient apparently scheduled for
   transplant w/u at [**Hospital1 **] in few wks.
   - hold spironolactone and furosemide
   .
   # FEN: IVF, replete electrolytes, HH diet
   .
   # Prophylaxis: boots
   .
   # Access: peripherals
   .
   # Code: FULL
   .
   # Communication: Sister [**Name (NI) 8300**] [**Name (NI) **] [**Telephone/Fax (1) 8301**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-9-24**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-09-26 06:12:00 Physician Resident Progress Note
Chief Complaint: 62M with ETOH cirrhosis, recent prolonged
   hospitalization [**Date range (1) 8028**] for right axillary hematoma requiring massive
   blood product resuscitation, readmission [**Date range (1) 8299**] for continued right
   groin bleed whiched achieved hemostasis with DDAVP and aminocaproic
   acid, presenting one day after discharge with altered mental status.
   His sister reports picking him up from the hospital the evening of [**9-22**]
   and reports he haved normal mental status.  The following morning he
   appeared to be confused and was not eating, and had not used the
   bathroom.  His symptoms progressed and by the evening he was awake but
   not verbal.  His sister therefore brought him to the [**Name (NI) **].
   24 Hour Events:
 CALLED OUT
   -will need 5d of ceftriaxone for GIB on admission
   -persistently encephalopathic, on lactulose Q2
   - hepatology recs: rec large volume tap with 6-8 g/liter of albumin
   support to prevent obstructive uropathy
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-9-26**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 71 (61 - 103) bpm
   BP: 144/74(91) {122/65(78) - 153/89(103)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,624 mL
                  PO:
                                                                    260 mL
                  TF:
   IVF:
                                                                  1,214 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    320 mL
   Urine:
                                                                    695 mL
                                                                    320 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -291 mL
                                                                   -320 mL
   Respiratory support
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.6 g/dL
   117 mg/dL
   0.9 mg/dL
   15 mEq/L
   3.0 mEq/L
   26 mg/dL
   115 mEq/L
   143 mEq/L
   26.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2149-9-24**]  10:19 AM
                             [**2149-9-24**]  03:43 PM
                             [**2149-9-24**]  08:23 PM
                             [**2149-9-25**]  02:51 AM
                             [**2149-9-25**]  03:20 PM
                             [**2149-9-26**]  04:41 AM
   WBC
   5.5
   6.9
   5.6
   Hct
   26.5
   25.8
   25.8
   26.1
   Plt
   110
   122
   130
   Cr
   1.7
   1.5
   1.1
   0.9
   Glucose
   101
   114
   114
   117
   Other labs: PT / PTT / INR:24.1/96.6/2.3, ALT / AST:12/41, Alk Phos / T
   Bili:56/10.4, Lactic Acid:1.8 mmol/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Microbiology:
   - peritoneal fluid
 NGTD
   - urine culture
 negative
   - blood culture
 pending
   - MRSA - pending
   Assessment and Plan
   Assessment and Plan:  63 yom with pmh significant for alcoholic
   cirrhosis, complicated by ascites, coagulopathy, hepatic
   encephalopathy, presenting with altered mental status.
   .
   # Altered Mental Status: clinical picture is most likely consistent
   with hepatic encephalopathy.  There is no clear precipitant; however,
   sister does report medication non-compliance for 24 hours prior to
   presentation.  Patient continues to have altered mental status without
   improvement in the setting of Rifaximin and Lactulose.  Ammonia
   continues to trend down as does lactate. Patient still without a bowel
   movement despite Lactulose q 2 hours and episodes of emesis are
   suggestive of some gastric residual.
   - continue lactulose and rifaximin via NGT
   - will repeat head CT when stable for concern of central CNS process
   .
   # ARF: Cr 1.9 at admission and patient appears to be intravascularly
   depleted with lactate of 4.3.  Cr and lactate began to clear with fluid
   challenges suggesting pre-renal etiology and patient has maintained
   good urine output throughout admission thus far.
   - continue fluid boluses to maintain UOP > 30 cc/hr
   .
   # Metabolic acidosis: Still acidodic, but gap closed.  Lactate
   continues to trend down with fluid resucitation
   - continue to monitor with peripheral VBG and lactate
   .
   # Pancytopenia.  patient remains at his baseline.
   .
   # Guaiac positive stools. these were present during last admission and
   attributed to hemorrhoids.  At admission, ED reported BRBPR.  Hct has
   remained stable and NGT to suction revealed no gross blood.
   - will continue to monitor with serial hematocrits
   .
   # ESLD: LFTs at approximate baseline. Patient scheduled for transplant
   w/u at [**Hospital1 **] in few wks.
   - hold spironolactone and furosemide
   - ? dc ceftriaxone since no history of SBP
   .
   # FEN: IVF, replete electrolytes, HH diet
   .
   # Prophylaxis: boots
   .
   # Access: peripherals
   .
   # Code: FULL
   .
   # Communication: Sister [**Name (NI) 8300**] [**Name (NI) **] [**Telephone/Fax (1) 8301**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-9-24**] 07:49 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Sister
   [**Name (NI) 129**] status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 63M EtOH cirrhosis, recent hospitalization
   for thoracic art embolization c/b sheath bleed, massive resuscitation.
   Yesterday found encephalopathic / nonverbal by sister. [**Name (NI) **] [**Name2 (NI) **] notable
   for neg para for SBP, stable RUQ usg, ARF (0.8 to 1.9). NGT placed on
   arrival, ongoing IVF with increased UOP. Remains agitated, now
   stooling, on CTX for ascites. IAP elevated at 28.
   Exam notable for Tm 97.8 BP 140/70 HR 89 RR 22 with sat 100 on RA.
   Frail man, NAD, non-verbal. PERRL, icteric. O/P dry. Coarse BS B. RRR
   s1s2 2/6Sm. Distended / tympanitic, +BS. 3+ edema. Does not follow
   commands, moves x4. Labs notable for WBC 7K, HCT 25, K+ 3.0, Cr 1.1,
   NH3 94, lac 2.7, tox pending. CXR with low volumes.
   Agree with plan to manage altered mental status with lactulose and
   rifaximin for recurrent hepatic encephalopathy. ARF responing to IVF;
   will trend IAP, but will hold off on tap as this mostly appears to be
   gas. AG acidosis transitioned to NAG acidosis with IVF. He remains
   guiac positive - maintain BBS and check [**Hospital1 **]. For ESLD - will continue
   to hold diuretics, continue CTX, liver following. PNBTS, PIV, full, d/w
   sister. Remainder of plan as outlined above.
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-9-26**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: